US07371765B2
To a suspension of 4-chloro-6-cyano-7-hydroxyquinoline (10.22 g, 50 mmol), (prepared as described for the starting material in Example 1), 3-(pyrrolidin-1-yl)propan-1-ol (8.1 ml, 60 mmol) and triphenylphosphine (26.2 g, 100 mmol) in methylene chloride (200 ml) was added diethyl azodicarboxylate (16.4 ml, 100 mmol) in portions. After stirring the reaction mixture for 2 hours at ambient temperature, the volatiles were removed under vacuum and the residue was purified by column chromatography eluting with ethyl acetate/methylene chloride (1/1) followed by methanol/ethyl acetate/methylene choride (1/4/5 followed by 1/0/9) followed by methanol saturated with ammonia/methylene chloride (1/9 followed by 2/8). The fractions containing the expected product were combined and the volatiles were removed under vacuum. The residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-chloro-6-cyano-7-(3-(pyrrolidin-1-yl)propoxy)quinoline (14.3 g, 90%).

reactant | 4-chloro-6-cyano-7-hydroxyquinoline | 50 mmol, 10.22 g | ClC1=CC=NC2=CC(=C(C=C12)C#N)O | C10H5ClN2O
reactant | 3-(pyrrolidin-1-yl)propan-1-ol | 60 mmol, 8.1 ml | N1(CCCC1)CCCO | C7H15NO
reactant | triphenylphosphine | 100 mmol, 26.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 100 mmol, 16.4 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-cyano-7-(3-(pyrrolidin-1-yl)propoxy)quinoline | 14.3 g, 90% | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1CCCC1 | C17H18ClN3O
